US05344966
A cycloalkyl phosphorus compound is obtained by the catalytic hydrogenation of a substituted or unsubstituted aryl phosphonic acid using a heterogeneous catalyst which is a Group VIII metal on carbon. The hydrogenation is preferably effected in water. The catalyst can be ruthenium or carbon. When phenylphosphonic acid is used as the starting material, a yield of about 95% of essentially pure cyclohexylphosphonic acid can be obtained.

reactant | phenylphosphonic acid | C1(=CC=CC=C1)P(O)(O)=O | C6H7O3P
solvent | water | O | H2O
catalyst | ruthenium | [Ru] | Ru
product | cyclohexylphosphonic acid | yield of about 95% | C1(CCCCC1)P(O)(O)=O | C6H13O3P
